US08022209B2
To a solution of methyltriphenylphosphonium bromide (180 mg, 0.5 mmol) in THF (3 mL) was added n-BuLi (1.6 M, 0.34 mL) at 0° C. After the mixture was stirred for 30 minutes, a solution of 4-(4-chloro-pyridin-2-yl)-thiophene-2-carbaldehyde (100 mg, 0.45 mmol) in THF (2 mL) was added. The resulting mixture was stirred at room temperature for 5 hours. Water was added and THF was removed. The water solution was extracted with EtOAc and organic layer was concentrated. The resulting residue was purified by silica gel column to yield 4-chloro-2-(5-vinyl-thiophen-3-yl)-pyridine.

reactant | n-BuLi | 1.6 M, 0.34 mL | [Li]CCCC
reactant | 4-(4-chloro-pyridin-2-yl)-thiophene-2-carbaldehyde | 0.45 mmol, 100 mg | ClC1=CC(=NC=C1)C=1C=C(SC1)C=O | C10H6ClNOS
reactant | Water | O | H2O
catalyst | methyltriphenylphosphonium bromide | 0.5 mmol, 180 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-(5-vinyl-thiophen-3-yl)-pyridine | ClC1=CC(=NC=C1)C1=CSC(=C1)C=C | C11H8ClNS
